US06096743
A mixture of 2.50 g of N-(4-cyano-5-fluoro-2-nitrophenyl)glycine ethyl ester, 0.67 g of imidazole, 7.40 g of pyridine and 40 ml of DMSO was stirred at 80° C. for 4 hours. After the addition of water, the reaction product was extracted with chloroform. The extract was washed successively with water and brine, dried over anhydrous sodium sulfate and then, concentrated under reduced pressure. The resulting residue was purified by chromatography on a silica gel column (eluent:chloroform:methanol=95:5) to give 2.82 g (92%) of N-[4-cyano-5-(1H-imidazol-1-yl)-2--nitrophenyl]glycine ethyl ester.

reactant | N-(4-cyano-5-fluoro-2-nitrophenyl)glycine ethyl ester | 2.50 g | C(C)OC(CNC1=C(C=C(C(=C1)F)C#N)[N+](=O)[O-])=O | C11H10FN3O4
reactant | imidazole | 0.67 g | N1C=NC=C1 | C3H4N2
reactant | pyridine | 7.40 g | N1=CC=CC=C1 | C5H5N
reactant | DMSO | 40 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-[4-cyano-5-(1H-imidazol-1-yl)-2--nitrophenyl]glycine ethyl ester | 2.82 g, 92% | C(C)OC(CNC1=C(C=C(C(=C1)N1C=NC=C1)C#N)[N+](=O)[O-])=O | C14H13N5O4
